US07964605B2
1-(4-{4-[4-(2-chloro-phenyl)-piperazin-1-yl]-butoxy}-benzyl)-1-methyl-urea
A mixture of 4-cyanophenol (5 mmol), 1-bromo-4-chlorobutane (5 mmol), and potassium carbonate (15 mmol) was refluxed in 100 ml of acetone for 6 h. This solution was then concentrated in a rotary evaporator and diluted with ethyl acetate. This mixture was then washed with brine, and the resulting organic layer was dried and purified by column chromatography. This product was dissolved in isopropanol (50 ml) and was added with 1-(2-chloro-phenyl)-piperazine (5 mmol), sodium carbonate (15 mmol), and potassium iodide (5 mmol) at 25° C., and the reaction mixture was refluxed for 12 h. This solution was then concentrated in a rotary evaporator and diluted with methylene chloride, this mixture was then washed with brine, and the resulting organic layer was dried and purified by column chromatography. This was dissolved in dried THF (50 ml) and was added with LAH (5 mmol) at 0° C., the reaction mixture was stirred at room temperature for 6 h, and H2O:1N NaOH:H2O (1:1:3) was added to terminate the reaction at 0° C. This crude product was dried with MgSO4 and concentrated in vacuo, and the residue was purified by column chromatography. The product was added to ethylchloroformate (5 mmol) and triethylamine (6 mmol), at 0° C. and was stirred for 2 hr in 20 ml of dichloromethane. This solution was diluted with dichloromethane and washed with water, and the resulting organic layer was dried and concentrated in vacuo. This was dissolved in dried THF and was added with LAH (5 mmol) at 0° C. The reaction mixture was stirred at room temperature for 6 h, and H2O:1N NaOH:H2O (1:1:3) was added to terminate the reaction at 0° C. This crude product was dried with MgSO4 and concentrated in vacuo. This product was dissolved in THF (20 ml) and was added with 1,1′-carbonyl diimidazole (12 mmol) at 0° C. The reaction mixture was stirred at room temperature for 4 h, followed by the addition of excess ammonium hydroxide (10 ml) at 0° C. After 5 h stirring at room temperature, water was added to terminate the reaction. The organic layer was extracted 3 times with dichloromethane, then dried and concentrated in vacuo. The residue was purified by column chromatography.

reactant | 4-cyanophenol | 5 mmol | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | 1-bromo-4-chlorobutane | 5 mmol | BrCCCCCl | C4H8BrCl
reactant | potassium carbonate | 15 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-chloro-phenyl)-piperazine | 5 mmol | ClC1=C(C=CC=C1)N1CCNCC1 | C10H13ClN2
reactant | sodium carbonate | 15 mmol | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 5 mmol | [I-].[K+]
reactant | LAH | 5 mmol | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH H2O | 1N | [OH-].[Na+].O
reactant | ethylchloroformate | 5 mmol | C(C)OC(=O)Cl | C3H5ClO2
reactant | triethylamine | 6 mmol | C(C)N(CC)CC | C6H15N
reactant | LAH | 5 mmol | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH H2O | 1N | [OH-].[Na+].O
reactant | 1,1′-carbonyl diimidazole | 12 mmol | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium hydroxide | 10 ml | [OH-].[NH4+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1-(4-{4-[4-(2-chloro-phenyl)-piperazin-1-yl]-butoxy}-benzyl)-1-methyl-urea | ClC1=C(C=CC=C1)N1CCN(CC1)CCCCOC1=CC=C(CN(C(=O)N)C)C=C1 | C23H31ClN4O2
